US04143047
4-Methyl-2-methylsulphinyloxazole
4-Methyl-2-methylthiooxazole (6.06 g, 0.047 m) in dry chloroform (50 ml) was cooled to 0° C. with vigorous stirring and anhydrous sodium carbonate (6.06 g, 0.057 m) added. 96% 3-Chloroperbenzoic acid (8.90 g, 0.0495 m) in dry chloroform (100 ml) was then added dropwise over 45 minutes and the mixture stirred for a further 45 minutes at 0° C. Solid sodium sulphite (2.0 g) was added and the mixture allowed to warm to room temperature. The mixture was then filtered, the filtrate evaporated and the resulting oil was distilled under vacuum to give the title compound as a colourless oil 6.48 g (95%), b.p. (airbath)76° C./0.1 mm.

reactant | 4-Methyl-2-methylthiooxazole | 6.06 g | CC=1N=C(OC1)SC | C5H7NOS
reactant | sodium carbonate | 6.06 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-Chloroperbenzoic acid | 8.90 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulphite | 2.0 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Methyl-2-methylsulphinyloxazole | 6.48 g, 95% | CC=1N=C(OC1)S(=O)C | C5H7NO2S
